US04404230
4-Nitro-1,2-benzoisothiazol-3(2H)-one-1,1-dioxide
8.0 gm (37 mmols) of 2-methyl-3nitro-benzene sulfonamide were oxidized with potassium permanganate in water analogous to Example 8. After extraction with ether, evaporation and recrystallization from water 3.8 gm (45% of theory) of the nitro compound were obtained.

reactant | 2-methyl-3nitro-benzene sulfonamide | 37 mmols, 8.0 gm | CC1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)N | C7H8N2O4S
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | O | H2O
product | 4-Nitro-1,2-benzoisothiazol-3(2H)-one-1,1-dioxide | [N+](=O)([O-])C1=CC=CC2=C1C(NS2(=O)=O)=O | C7H4N2O5S
